US04900743
1-(4-Pyridoyl)-4-methylthiosemicarbazide
4-Pyridoyl chloride hydrochloride (10.0 g, 5.62×10-2 mole) and 4-methylthiosemicarbazide (5.91 g, 5.62×10-2 mole) was stirred at room temperature in pyridine (150 ml). After stirring overnight, the pyridine was evaporated at reduced pressure and the concentrate was washed with H2O. The undissolved product was collected by filtration and dried by suction.

reactant | 4-Pyridoyl chloride hydrochloride | 5.62×10-2 mole, 10.0 g | Cl.N1=CC=C(C=C1)C(=O)Cl
reactant | 4-methylthiosemicarbazide | 5.62×10-2 mole, 5.91 g | CNC(NN)=S | C2H7N3S
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Pyridoyl)-4-methylthiosemicarbazide | N1=CC=C(C=C1)C(=O)NNC(=S)NC | C8H10N4OS
